US09079866B2
4-((4′-(5-Amino-1,3,4-thiadiazol-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)thiomorpholine 1,1-dioxide
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine and 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide. MS (ESI): mass calcd. for C18H17FN4O4S2, 468.04; m/z found, 469.0 [M+H]+. 1H NMR (300 MHz, CD3OD) δ 8.19 (m, 1H), 8.15 (dd, J=8.0, 1.1, 1H), 7.76 (m, 1H), 7.67 (m, 1H), 7.45 (dd, J=7.6, 1.2, 1H), 7.39 (dd, J=11.9, 1.4, 1H), 7.36 (dd, J=8.1, 1.6, 1H), 3.42-3.33 (m, 4H), 3.09-3.02 (m, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NN=C(S1)N | C14H17BFN3O2S
reactant | 4-((2-bromophenyl)sulfonyl)thiomorpholine 1,1-dioxide | BrC1=C(C=CC=C1)S(=O)(=O)N1CCS(CC1)(=O)=O | C10H12BrNO4S2
product | 4-((4′-(5-Amino-1,3,4-thiadiazol-2-yl)-3′-fluoro-[1,1′-biphenyl]-2-yl)sulfonyl)thiomorpholine 1,1-dioxide | NC1=NN=C(S1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCS(CC1)(=O)=O)F | C18H17FN4O4S3
